US07754737B2
A solution of (R)-tert-butyl 3-benzoylpiperidine-1-carboxylate (10.3 g, 35.64 mmol) anhydrous toluene (120 mL) was cooled to −78° C. and (R)-2-methyl-CBS-oxazaborolidine (1.0M in toluene, 17.8 mL, 17.8 mmol, 0.5 equiv) was added slowly. After 5 min, catecholborane (11.4 mL, 107 mmol, 3 equiv) was added slowly. The reaction mixture was then transferred into the freezer (˜14.2° C.) and left overnight. LC-MS (16 min) showed 9:1 ratio of the R to S isomer. The mixture was cooled to 0° C. and water was added dropwise to quench the reaction. The reaction mixture was diluted with ether, washed with 5% aq NaOH (2×150 mL), water (150 mL), 5% aq HCl (100 mL), brine (100 mL), and dried over Na2SO4. After concentration, the crude product was purified by flash chromatography on a 120 g silica gel column eluted with a 4-35% EtOAc in hexanes gradient. The purified product was recrystallized from an ether hexanes mixture to afford (R)-tert-butyl 3-((R)-hydroxy(phenyl)methyl)piperidine-1-carboxylate (4.45 g, 43%) as white solid with the ratio of R/S isomers 23.5:1. LC-MS (3 min) tR=1.70 min; LC-MS (3 min) tR=10.62 min, m/z 314 (M+Na). 1H NMR (CDCl3) δ 7.28 (m, 5H), 4.46 (d, 1H), 3.87 (d, 1H), 3.89-3.51 (br s, free exchange 1H), 3.00 (m, 2H), 2.68 (t, 1H), 2.52 (t, 1H), 1.94 (m, 1H), 1.76 (m, 1H), 1.65 (m, 1H), 1.42-1.20 (m, 10H).

reactant | (R)-tert-butyl 3-benzoylpiperidine-1-carboxylate | 35.64 mmol, 120 mL, 10.3 g | C(C1=CC=CC=C1)(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C17H23NO3
reactant | (R)-2-methyl-CBS-oxazaborolidine | 17.8 mmol, 1.0M, 17.8 mL, 0.5 equiv | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | catecholborane | 107 mmol, 11.4 mL, 3 equiv | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (R)-tert-butyl 3-((R)-hydroxy(phenyl)methyl)piperidine-1-carboxylate | 4.45 g, 43% | O[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
